US07405236B2
d] (6-{Methyl-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynoyl]-amino}-indol-1-yl)-acetic acid
{6-[5-(3-Trifluoromethoxy-phenyl)-pent-4-ynoylamino]-indol-1-yl}-acetic acid ethyl ester (50 mg, 0.11 mmol) was added to a suspension of sodium hydride (9 mg, 0.22 mmol) in tetrahydrofuran (1.5 ml) at 0° C. The mixture was stirred for 30 min at 0° C., methyl iodide (30 μl, 0.44 mmol) was added and stirring was continued for 14 h at ambient temperature. The suspension was cooled to 0° C., sodium hydride (13 mg, 0.33 mmol) and methyl iodide (45 μl, 0.66 mmol) were added and the mixture was stirred for 4 h at ambient temperature. Ethyl acetate was added, the solution was successively washed with brine, 1 N HCl/ice water 1/1 and brine and dried over sodium sulfate. The solvent was removed under reduced pressure to give 42 mg (0.09 mmol, 82%) of the title compound as yellow solid.

reactant | {6-[5-(3-Trifluoromethoxy-phenyl)-pent-4-ynoylamino]-indol-1-yl}-acetic acid ethyl ester | 0.11 mmol, 50 mg | C(C)OC(CN1C=CC2=CC=C(C=C12)NC(CCC#CC1=CC(=CC=C1)OC(F)(F)F)=O)=O | C24H21F3N2O4
reactant | sodium hydride | 0.22 mmol, 9 mg | [H-].[Na+]
reactant | methyl iodide | 0.44 mmol, 30 μl | CI | CH3I
reactant | sodium hydride | 0.33 mmol, 13 mg | [H-].[Na+]
reactant | methyl iodide | 0.66 mmol, 45 μl | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | (6-{Methyl-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynoyl]-amino}-indol-1-yl)-acetic acid | 0.09 mmol, 42 mg, 82% | CN(C1=CC=C2C=CN(C2=C1)CC(=O)O)C(CCC#CC1=CC(=CC=C1)OC(F)(F)F)=O | C23H19F3N2O4
